US05270309
Using the method described in Example 18a with 3,5-dimethylaniline (20 g) and dimethylacetylene dicarboxylate (23.4 g) as reagents gave methyl 5,7-dimethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (1.25 g), m.p. 227°-229° C. δ (360 MHz, DMSO-d6) 2.34 (3H, s, 7-Me), 2.74 (3H, s, 5-Me), 3.94 (3H, s, CH3O), 6.49 (1H, s, 3-H), 6.89 (1H, s, 6-H) and 7.54 (1H, s, 8-H).

reactant | 3,5-dimethylaniline | 20 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | dimethylacetylene dicarboxylate | 23.4 g | COC(=O)C#CC(=O)OC | C6H6O4
product | methyl 5,7-dimethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | 1.25 g | CC1=C2C(C=C(NC2=CC(=C1)C)C(=O)OC)=O | C13H13NO3
